US06437150B1
(E)-3-(2-Hydroxy-phenyl)-acrylic Acid 1-(2-Hex-3Z-enyloxycarbonyl-ethyl)-hexyl Ester
To a solution of 6.14 g 3-[2-(tert-butyl-dimethyl-silanyloxy)-phenyl]-acrylic acid 1-(2-hex-3-enyloxycarbonyl-ethyl)-hexyl ester in 50 ml of tetrahydrofuran, a solution of 25 ml of a 1M tetrabutylammoniumfluoride solution was added at 0° C. After stirring at room temperature for 90 minutes, the solution was quenched with water and extracted with ether. The organic phase was washed with water, dried and evaporated to dryness. The residue was purified by Kugelrohr-distillation and chromatography to yield 0.51 g of a colorless oil.

reactant | 3-[2-(tert-butyl-dimethyl-silanyloxy)-phenyl]-acrylic acid 1-(2-hex-3-enyloxycarbonyl-ethyl)-hexyl ester | 6.14 g | C(CC=CCC)OC(=O)CCC(CCCCC)OC(C=CC1=C(C=CC=C1)O[Si](C)(C)C(C)(C)C)=O | C30H48O5Si
reactant | tetrabutylammoniumfluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (E)-3-(2-Hydroxy-phenyl)-acrylic Acid 1-(2-Hex-3Z-enyloxycarbonyl-ethyl)-hexyl Ester | 0.51 g | C(C\C=C/CC)OC(=O)CCC(CCCCC)OC(\C=C\C1=C(C=CC=C1)O)=O | C24H34O5
